US05659040
(E)-N-Methyl-2-[3-(1,2,3,6-tetrahydro-1-methyl-4-pyridinyl)-1H-indol-5-yl]ethenesulphonamide
A mixture of N-methylethenesulphonamide (460 g), Intermediate 1 (1 kg), palladium acetate (15.4 g), tri-o-tolylphosphine (315 g), triethylamine (960 mL) and celite (400 g) in DMF (5 L) was heated between 100°-108° under nitrogen for 21/2 hr. The suspension was cooled to 5°, filtered and the filter cake washed with DMF (2 L). A portion (3.7 L) of the filtrate was stirred with water (250 mL) and cyclohexane (3.0 L) for 10 min. The phases were separated and the DMF layer re-extracted with cyclohexane (1×3.0 L, 1×1.5 L). The DMF solution was heated to 90° and water (2 L) added over 40 min. The mixture was cooled to 10° over 3 hr and then aged at 5° for 14 hr. The solid obtained was filtered off, washed with cold (10°) DMF/water (2:1) (2×500 mL) and dried in vacuo at 50° for 18 hr to afford a yellow powder (323.2 g, 60% of theory).

reactant | N-methylethenesulphonamide | 460 g | CNS(=O)(=O)C=C | C3H7NO2S
reactant | tri-o-tolylphosphine | 315 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 960 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 5 L | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 15.4 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-N-Methyl-2-[3-(1,2,3,6-tetrahydro-1-methyl-4-pyridinyl)-1H-indol-5-yl]ethenesulphonamide | CNS(=O)(=O)\C=C\C=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C17H21N3O2S
